US09303023B2
2-(4-(5-(m-Tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl methanesulfonate
To an ice-cooled solution of N-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (178 mg, 0.57 mmol) in DCM (8 mL), Et3N (0.24 mL, 1.71 mmol) was added. After stirring for 5 min at 0° C., methanesulfonyl chloride (0.11 mL, 1.43 mmol) was added dropwise, and the resulting suspension was stirred at 0° C. for 1 h 15, then quenched with water and extracted with DCM (2×). The combined org. layers were washed with brine, dried (MgSO4) and concentrated in vacuo to obtain the title compound as an oil. LC-MS conditions A: tR=0.90 min, [M+H]+=391.03.

reactant | N-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.57 mmol, 178 mg | OCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H16N4O3
reactant | Et3N | 1.71 mmol, 0.24 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.43 mmol, 0.11 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(5-(m-Tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl methanesulfonate | CS(=O)(=O)OCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C17H18N4O5S
